US08022206B2
Intermediate 7: 6-Nitrofuro[3,2-c]pyridin-7-ol
The reaction was conducted with 1 g starting material/10 mL 90% aq. nitric acid ratio. Reactions were run at 2×200 mg, 500 mg, 4×1.05 g scales. The nitric acid was cooled down to 0° C. and furo[3,2-c]pyridin-7-ol was added in portions slowly. The color of the reaction mixture turned to deep orange/red. The reaction mixture was stirred at 0° C. for 30 min. LC-MS showed complete consumption of the starting material. The mixture was poured into crashed ice to quench reaction, then extracted with DCM (3×10 mL for 200 mg scale). The combined organic layers were washed with brine (10 mL), dried over Na2SO4, and concentrated under vacuum. The resulting yellow solid (1.83 g, 26% yield) was directly used in the next step. 1H NMR (CD3OD, 400 MHz): δ=7.16 (d, J=2.0 Hz, 1H), 8.18 (d, J=2.0 Hz, 1H), 8.39 (s, 1H). MS (ES+): 181.01 [MH+].

reactant | furo[3,2-c]pyridin-7-ol | O1C=CC=2C=NC=C(C21)O | C7H5NO2
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
product | 6-Nitrofuro[3,2-c]pyridin-7-ol | 1.83 g, 26% yield | [N+](=O)([O-])C1=C(C2=C(C=N1)C=CO2)O | C7H4N2O4
